US05250517
120 mg of N-[(1S,2S,4S)-1-benzyl-2-hydroxy-4-isopropyl-5-hexenyl]-α-(α-pivaloylhydrocinnamamido)imidazole-4-propionamide in 10 ml of ethanol were hydrogenated at room temperature for 2 hours in the presence of 20 mg of palladium-on-carbon. Thereafter, the catalyst was filtered off and the solvent was evaporated under reduced pressure, to obtain (S)-N-[(1S,2S,4S)-1-benzyl-2-hydroxy-4-isopropylhexyl]-α-[(R)-α-(3,3-dimethyl- 2-oxobutyl)hydrocinnamamido]imidazole-4-propionamide as a foam. MS: 617 (M+H)+.

reactant | N-[(1S,2S,4S)-1-benzyl-2-hydroxy-4-isopropyl-5-hexenyl]-α-(α-pivaloylhydrocinnamamido)imidazole-4-propionamide | 120 mg | C(C1=CC=CC=C1)[C@@H]([C@H](C[C@H](C=C)C(C)C)O)NC(C(CC=1N=CNC1)NC(C(CC1=CC=CC=C1)C(C(C)(C)C)=O)=O)=O | C36H48N4O4
reactant | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 20 mg | [Pd] | Pd
product | (S)-N-[(1S,2S,4S)-1-benzyl-2-hydroxy-4-isopropylhexyl]-α-[(R)-α-(3,3-dimethyl- 2-oxobutyl)hydrocinnamamido]imidazole-4-propionamide | C(C1=CC=CC=C1)[C@@H]([C@H](C[C@H](CC)C(C)C)O)NC([C@H](CC=1N=CNC1)NC([C@H](CC1=CC=CC=C1)CC(C(C)(C)C)=O)=O)=O | C37H52N4O4
